US08183231B2
[(R)-3-(2-Amino-acetylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid
Step 4, Method B of Example 1 was substantially repeated in this Example 2 except for employing ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-glycine as the starting materials. Subsequent hydrogenation of the resulting benzyl ester in accordance with the procedures of Step 5, Method A of Example 1 yielded the title compound. 1H NMR (CD3OD, 300 MHz): δ 4.18-4.01 (m, 1H), 3.85 (s, 2H), 3.55-3.40 (m, 1H), 3.38-3.22 (m, 1H), 1.91-1.40 (m, 10H), 1.38-0.90 (m, 5H). 31P NMR (CD3OD, 300 MHz): δ 39.92. LCMS m/z: [M+H]+=293.1.

reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
product | [(R)-3-(2-Amino-acetylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid | NCC(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O | C12H25N2O4P
